US07943607B2
4-Fluoro-2-hydroxy-N-methylbenzamide
DMF (2 drops) was added to a mixture of 4-fluorosalicylic acid (2 g, 12.8 mmol) and oxalyl chloride (2.85 mL, 32.0 mmol) in THF (15 mL). The reaction was stirred for 2 hours then reduced in vacuo. The residue was dissolved in THF (10 mL) and added dropwise to 2M methylamine in THF (32 mL) at 0° C. The reaction was stirred at RT for 72 hours and the THF removed in vacuo. The residue was partitioned between ethyl acetate (80 mL) and water (80 mL). The aqueous layer was further extracted into ethyl acetate (80 mL) and the combined organics washed with brine (50 mL), dried (MgSO4), and reduced in vacuo to give a white solid. The material was chromatographed on silica, eluting with 5-40% ethyl acetate in isohexane, to give the desired compound as a white solid (1.43 g).

reactant | 4-fluorosalicylic acid | 12.8 mmol, 2 g | FC=1C=C(C(C(=O)O)=CC1)O | C7H5FO3
reactant | oxalyl chloride | 32.0 mmol, 2.85 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methylamine | 2M | CN | CH5N
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 32 mL | C1CCOC1 | C4H8O
product | 4-Fluoro-2-hydroxy-N-methylbenzamide | 1.43 g | FC1=CC(=C(C(=O)NC)C=C1)O | C8H8FNO2
